US05576324
2-Bromomethyl-5,8,9-trimethyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one:
6-Allyl-5-hydroxy-3,4,8-trimethylcarbostyril (1.01 g, 4.16 mmol) was dissolved in chloroform (50 ml). To the obtained solution, N-bromosuccinimide (888 mg, 4.99 mmol) was added. The mixture was refluxed with in a bath of 100° C. for 1.5 hours. The reaction mixture was cooled, washed with saturated aqueous NaCl solution and dried. The solvent was distilled off under reduced pressure. The residue was recrystallized from chloroform--ether to obtain 1.06 g of the title compound as yellow needles (79.8%).

reactant | 6-Allyl-5-hydroxy-3,4,8-trimethylcarbostyril | 4.16 mmol, 1.01 g | C(C=C)C=1C(=C2C(=C(C(NC2=C(C1)C)=O)C)C)O | C15H17NO2
reactant | N-bromosuccinimide | 4.99 mmol, 888 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Bromomethyl-5,8,9-trimethyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 1.06 g, 79.8% | BrCC1CC=2C(=C3C(=C(C(NC3=C(C2)C)=O)C)C)O1 | C15H16BrNO2
